US05834494
5-(N,N-Dimethylamino)-1-(3-pyridylcarbamoyl)indoline (E4)
5-(N,N-dimethylamino)indoline (D13) (0.29 g, 1.79 mmol) was added to solution of 3-pyridylisocyanate derived from nicotinoyl azide (0.52 g, 1.2 eq) heated at reflux in dry toluene for 1.5 h. The solution was allowed to stand overnight evaporated under reduced pressure and purified by column chromatography (SiO2, CHCl3 /MeOH 2-5%) to afford a pale blue oil which on trituration with Et2O afforded a pale blue solid (550 mg, 99%).

reactant | 5-(N,N-dimethylamino)indoline | 1.79 mmol, 0.29 g | CN(C)C=1C=C2CCNC2=CC1 | C10H14N2
reactant | 3-pyridylisocyanate | N1=CC(=CC=C1)N=C=O | C6H4N2O
reactant | nicotinoyl azide | 0.52 g, 1.2 eq | C(C1=CN=CC=C1)(=O)N=[N+]=[N-] | C6H4N4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(N,N-Dimethylamino)-1-(3-pyridylcarbamoyl)indoline | 550 mg, 99% | CN(C)C=1C=C2CCN(C2=CC1)C(NC=1C=NC=CC1)=O | C16H18N4O
